US07517873B2
To an ice cooled mixture of 1.38 g (0.0046 mole) of (rac)-9-benzyl-2-chloro-7-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-42), 0.43 mL (0.0068 mole) of iodomethane and 15 mL of dimethylformamide was added 0.27 g (0.0068 mole) of a 60% oil dispersion of sodium hydride. The mixture was stirred at 0 degrees for 2 hours and then partitioned between ethyl acetate and water. The aqueous phase was extracted with ethyl acetate. The combined organic phases were washed successively with water and brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with hexanes-ethyl acetate (100:0-60:40) to give 1.36 g of (rac)-9-benzyl-2-chloro-5,7-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one as white powder (VII-42).

reactant | (rac)-9-benzyl-2-chloro-7-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.0046 mole, 1.38 g | C(C1=CC=CC=C1)N1C2=C(NC(C(C1)C)=O)C=NC(=N2)Cl | C15H15ClN4O
reactant | iodomethane | 0.0068 mole, 0.43 mL | IC | CH3I
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | (rac)-9-benzyl-2-chloro-5,7-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 1.36 g | C(C1=CC=CC=C1)N1C2=C(N(C(C(C1)C)=O)C)C=NC(=N2)Cl | C16H17ClN4O
